US08012976B2
4-Formyl-N,N-dimethylbenzamide
To a suspension of 4-formylbenzoic acid (4.00 g, 26.7 mmol) in dry DCM (8 mL) were added thionyl chloride (2.92 g, 40.0 mmol) and DMF (0.6 mL) dropwise at ambient temperature under nitrogen. The reaction mixture was refluxed for 2 h. After cooling, this mixture was added to 33% dimethylamine in water (10.5 mL, 72 mmol) dropwise over 15 min in an ice-water bath, and the reaction mixture stirred for 1 h at the same temperature. The solvent was evaporated in vacuums. The residue was purified by chromatography on silica gel to give the title compound (2.5 g, yield 53%) as a yellow solid. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.86 (s, 3H), 3.30 (s, 3H), 7.60 (d, J=7.6 Hz, 2H), 7.95 (d, J=7.6 Hz, 2H), 10.04 (s, 1H); LC-MS (ESI) m/z: 178 (M+1)+.

reactant | 4-formylbenzoic acid | 26.7 mmol, 4.00 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | thionyl chloride | 40.0 mmol, 2.92 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine | CNC | C2H7N
reactant | water | 72 mmol, 10.5 mL | O | H2O
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 4-Formyl-N,N-dimethylbenzamide | 2.5 g, yield 53% | C(=O)C1=CC=C(C(=O)N(C)C)C=C1 | C10H11NO2
